Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Naproxen / Trazodone / Compazine / Motrin / Toradol / Morphine 
Sulfate
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ year-old woman with a remote history of 
pseudotumor cerebri who presents with ___ weeks of headache. She 
had pseudotumor diagnosed during her pregnancy ___ years ago and 
was subsequently without any headache until ___ weeks ago (pt 
states 2 weeks; OMR notes indicate at least 5 weeks). The 
headache is described as left-frontal radiating to left neck and 
is accompanied by nausea and vomitting without phonophobia or 
photophobia. She has also had fevers as high as 102 at home. She 
presented to ___ on ___. Given headache and fevers, and LP 
was done and was without evidence of infection. Opening pressure 
was 35 cm H20, but apparently no therapeutic tap was done. She 
remained afebrile in the hospital. The neurology consulting 
service saw her and recommended CT venogram, which was negative 
for venous sinus thrombosis. In addition to her headache at that 
time she complained of lower extremity weakness, and after 
discussion with the neurology service MR and later CT of the 
head and neck were done which were negative for any acute 
pathology. The patient was noted to have multiple active 
narcotic prescriptions at various pharmacies; thus, the pain 
managment service was consulted and recommended PO dilaudid 
taper.  
.  
By the patient's report, her pain improved considerably after 
discharge and she never filled the dilaudid prescription. 
However, 2 days prior to this admission her pain recurred, 
similar in character and with nausea/vomitting. She again states 
that she is having fevers to 102. She presented to ___ ED 
where she was afebrile. LP showed a normal opening pressure of 
20. Neurology was consulted and recommended no further 
evaluation. She had some improvement with zofran and Percocet. 
She was sent home with these two medications but soon again 
became too nauseated to tolerate any PO. Thus, she re-presented 
to ___ ED. Of note pt has a long history of nacotics abuse.
.  
In the ED initial VS 98, 67, 136/81, RR 16, 100% RA. She 
received PO zofran and dilaudid which she vomited. She then got 
4 mg IV zofran and 2 mg IV dilaudid with improved pain control. 
CN intact, strenth intact, hyperactive UE reflexes as previously 
noteed. Patient complained of L-sided heaviness but nonfocal 
exam Most recently, T 96, 60, 157/81, RR 18, 96% RA  
.  
On acceptance to the medicine service, the patient complains of 
___ headache and nausea. She presents her nearly full bottle 
of percocet and her dilaudid prescription from the last 
hospitalization to the staff for safekeeping. Review of systems 
is also notable for L leg and face tingling, right leg weakness. 
 

 
Past Medical History:
Of note there is some discrepency between the history she 
reports and that per our old records  
1. Fibroids  
2. Chronic Pain - patient denies  
3. Opiate dependence - patient denies  
4. EtOH abuse - patient denies  
5. Agoraphobia  
6. Depression  
7. Hepatitis C secondary to IVDU per notes, but patient reports  

due to blood transfusion, HIV negative ___. ?Renal stones  
9. Splenomegaly and thrombocytopenia; per prior OMR notes, has 
been extensively evaluated in the past with viral serologies and 
BM biopsy  
10. ? Bipolar affective disorder. History of psych  
hospitalization at age ___ following assault, at age ___ during  
parents separation and in ___ after OD attempt  
11. Seizure or syncope in ___ and seizures in ___ thought to  
be heroine related  
12. Hypertension  
13. pseudotumor cerebrei ___ years ago when pregnant - patient 
states that she had a normal opening pressure at that time but 
improved considerably after therapeutic 'centesis  
.  
PSH: s/p appy, s/p CCY, s/p ex-lap, s/p c-section  

 
Social History:
___
Family History:
Mother with COPD, DM, father with alcoholism.
 
Physical Exam:
VS: T 97 HR 90 BP 186/90 RR 28 Sat 99% RA  
Gen: appears uncomfortable  
Eye: extra-occlar movements intact, pupils equal round, reactive 
 
to light 4->3mm bilaterally, sclera anicteric, not injected, no  

exudates  
ENT: mucus membranes moist, no ulceratios or exudates  
Neck: supple  
Cardiovascular: regular without murmurs  
Respiratory: Clear to auscultation bilaerally, no whezes, rales  

or rhonchi  
Abd: normoactive bowel sounds, obese, soft, nontender, no 
palpable organomegaly or masses  
Extremities: No cyanosis, clubbing, edema, joint swelling.  
Neurological: Alert and oriented x3, CN II-XII intact, decreased 
sensation to light touch LLE, DTRs 2+ b/l upper and lower 
extremities, strength ___ UE bilaterally, ___ LLE, ___ R hip and 
knee, ___ distal RLE  
Skin: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, anxious  
Hematologic: no cervical or supraclavicular  

 
Pertinent Results:
___ 09:00AM BLOOD WBC-3.0* RBC-4.36 Hgb-11.5* Hct-35.6* 
MCV-82 MCH-26.3* MCHC-32.2 RDW-16.6* Plt Ct-71*
___ 05:38AM BLOOD WBC-3.7* RBC-4.47 Hgb-11.7* Hct-35.6* 
MCV-80* MCH-26.1* MCHC-32.8 RDW-16.4* Plt Ct-77*
___ 03:45AM BLOOD WBC-3.8* RBC-4.42 Hgb-11.9* Hct-34.8* 
MCV-79* MCH-27.0 MCHC-34.2 RDW-17.3* Plt Ct-72*
___ 05:38AM BLOOD Neuts-72.1* ___ Monos-5.0 Eos-2.4 
Baso-1.0
___ 03:45AM BLOOD Neuts-75.7* Lymphs-15.4* Monos-6.2 
Eos-2.1 Baso-0.6
___ 09:00AM BLOOD Plt Ct-71*
___ 05:38AM BLOOD Plt Ct-77*
___ 05:38AM BLOOD ___ PTT-32.2 ___
___ 03:45AM BLOOD Plt Ct-72*
___ 03:45AM BLOOD ___ PTT-32.1 ___
___ 09:00AM BLOOD Glucose-116* UreaN-7 Creat-0.6 Na-141 
K-3.2* Cl-107 HCO3-24 AnGap-13
___ 05:38AM BLOOD Glucose-118* UreaN-7 Creat-0.6 Na-137 
K-3.6 Cl-106 HCO3-22 AnGap-13
___ 03:45AM BLOOD Glucose-130* UreaN-8 Creat-0.7 Na-136 
K-5.7* Cl-106 HCO3-21* AnGap-15
___ 09:00AM BLOOD Calcium-8.7 Phos-3.8 Mg-1.9
___ 05:38AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.1
___ 03:30AM URINE Color-Straw Appear-Clear Sp ___
___ 03:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

 
Brief Hospital Course:
This is a ___ year-old woman with a history of pseudotumor who 
presented with headache.  
.  
# Headache: Given her history of pseudotumor despite a normal 
opening pressure, that was a possible cause. Also possible 
etiologies were migraine or rebound hypertension headache from 
stopping clonidine. She was given 1 dose of Dilaudid then 1 dose 
of tylenol. Pt then eloped from the hospital after narcotics 
were stopped. She has a history of multiple narcotics 
prescriptions from multiple providers therefore there was 
concern for narcotics seeking behavior after reading prior 
records. Work up for headache was unable to be completed due to 
pt leaving the hospital without signing an AMA form morning 
after admission. Attending was informed. 

 
Medications on Admission:
unclear home med list, could not confrim before pt left
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
headache
 
Discharge Condition:
pt eloped
 
Discharge Instructions:
none
 
Followup Instructions:
___